US04900752
7,8-dihydro-6,6-dimethyl-7-hydroxy-8-chloroacetylamino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole
A mixture of 200 mg (0.85 m mol) of 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-amino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole, 130 μl (0.935 m mol) of triethylamine and 20 ml of methylene chloride was added with 74 μl (0.935 m mol) of chloroacetyl chloride with stirring at the room temperature, followed by further stirring for 30 minutes. After the completion of the reaction, the precipitated crystals were separated by filtration to obtain 201 mg (yield: 76%) of the intended compound.

reactant | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-amino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole | 200 mg | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)N)O)C | C11H13N3O3
reactant | triethylamine | 130 μl | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 74 μl | ClCC(=O)Cl | C2H2Cl2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-chloroacetylamino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole | 201 mg, yield: 76% | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)NC(CCl)=O)O)C | C13H14ClN3O4
